US05071853
2-[(phenylmethoxy)methyl]cyclohexanone
A solution of 1-cyclohexenyloxytimethylsilane in dry tetrahydrofuran is treated with n-butyllithium (1.6M in hexane), 1.1 equivalents). After stirring 45 minutes the solution is cooled to 0° C. and a solution of zinc chloride (0.5 equivalents) in tetrahydrofuran is added dropwise. The mixture is stirred for 30 minutes followed by addition of choromethylbenzyl ether (1.2 equivalents) as a solution in tetrahydrofuran. After stirring for 6 hours, water is added. The organics are layered with ether, dried (MgSO4), concentrated in vacuo, then chromatographed to give the title compound.

reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | choromethylbenzyl ether | 1.2 equivalents | ClCOCC1=CC=CC=C1 | C8H9ClO
reactant | water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | zinc chloride | 0.5 equivalents | [Cl-].[Zn+2].[Cl-]
product | 2-[(phenylmethoxy)methyl]cyclohexanone | C1(=CC=CC=C1)COCC1C(CCCC1)=O | C14H18O2
